US06777417B2
3-(3-Piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (170 mg, 0.62 mmol), prepared as described in Example 8, was mixed with bromo-acetic acid ethyl ester (89 ml, 0.8 mmol, 1.3 eq.) and potassium carbonate (342 mg, 2.5 mmol, 4 eq.) in dimethylformamide. The mixture was stirred at room temperature overnight. The salt was filtered out and the filterate was rotary evaporated and purified by flash chromatography, eluting with (dichloromethane/methanol 40/1, 30/1) to give 140 mg of {(4-[3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid ethyl ester.

reactant | 3-(3-Piperazin-1-yl-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.62 mmol, 170 mg | N1(CCNCC1)CCCC1=C(NC=2CCCCC12)C=O | C16H25N3O
reactant | bromo-acetic acid ethyl ester | 0.8 mmol, 89 ml, 1.3 eq. | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium carbonate | 2.5 mmol, 342 mg, 4 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (4-[3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid ethyl ester | 140 mg | C(C)OC(CN1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O)=O | C20H31N3O3
